US09126970B2
Step a): 10,10-Dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene
500 ml of dioxane are added to 42 g of (3-chloropyridin-4-yl)-(9,9-dimethyl-9H-fluoren-2-yl)amine (130 mmol), 1.46 g of palladium(II)acetate (6.5 mmol) and 75 g of sodium tert-butoxide (780 mmol), 7.8 ml of a 1 M solution of P(t-Bu)3 in toluene (7.8 mmol), and the mixture is stirred at 105° C. under nitrogen for 24 h. 200 ml of dichloromethane and 0.1 M Na2CO3 solution are then added. The mixture is partitioned between water and dichloromethane, the aqueous phase is extracted three times with dichloromethane, the combined organic phases are dried over Na2SO4 and evaporated in a rotary evaporator. The residue is recrystallised from toluene/heptane. The yield is 18.5 g (65.1 mmol, 50%).

reactant | (3-chloropyridin-4-yl)-(9,9-dimethyl-9H-fluoren-2-yl)amine | 130 mmol, 42 g | ClC=1C=NC=CC1NC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C20H17ClN2
reactant | sodium tert-butoxide | 780 mmol, 75 g | CC(C)([O-])C.[Na+]
reactant | P(t-Bu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | toluene | 7.8 mmol | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 0.1 M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium(II)acetate | 6.5 mmol, 1.46 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 10,10-Dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene | CC1(C2=CC=CC=C2C=2C=C3C(=CC12)NC1=CC=NC=C13)C | C20H16N2
